US08278441B2
N-((4aR,6R,7aS)-6-Methoxy-7a-(3′-methoxybiphenyl-3-yl)-4,4a,5,6,7,7a-hexahydrocyclopenta[d][1,3]thiazin-2-yl)benzamide
To a 0° C. mixture of N-((4aR,6R,7aS)-6-hydroxy-7a-(3′-methoxybiphenyl-3-yl)-4,4a,5,6,7,7a-hexahydrocyclopenta[d][1,3]thiazin-2-yl)benzamide (0.086 g, 0.169 mmol) and 48% aqueous fluoroboric acid (0.031 g, 0.169 mmol) in dichloromethane (0.6 mL) is added 2 M trimethylsilyldiazomethane in hexane (0.101 mL, 0.202 mmol). The mixture is stirred at 0° C. for 30 minutes and is poured into saturated aqueous solution of sodium bicarbonate. The mixture is diluted with water and is extracted with dichloromethane. The organic layer is washed sequentially with water and brine and is dried over sodium sulfate. The solvent is removed under reduced pressure and the crude product is purified by silica gel chromatography eluting with a linear gradient of 10% to 60% ethyl acetate in hexanes over 20 minutes to give the title compound (0.038 g, 48%). ES/MS m/e: 473 (M+1).

reactant | N-((4aR,6R,7aS)-6-hydroxy-7a-(3′-methoxybiphenyl-3-yl)-4,4a,5,6,7,7a-hexahydrocyclopenta[d][1,3]thiazin-2-yl)benzamide | 0.169 mmol, 0.086 g | O[C@@H]1C[C@@H]2[C@@](N=C(SC2)NC(C2=CC=CC=C2)=O)(C1)C=1C=C(C=CC1)C1=CC(=CC=C1)OC | C27H26N2O3S
reactant | fluoroboric acid | 0.169 mmol, 0.031 g | F[B-](F)(F)F.[H+]
reactant | trimethylsilyldiazomethane | 2 M | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | hexane | 0.202 mmol, 0.101 mL | CCCCCC | C6H14
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 0.6 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | N-((4aR,6R,7aS)-6-Methoxy-7a-(3′-methoxybiphenyl-3-yl)-4,4a,5,6,7,7a-hexahydrocyclopenta[d][1,3]thiazin-2-yl)benzamide | 0.038 g, 48% | CO[C@@H]1C[C@@H]2[C@@](N=C(SC2)NC(C2=CC=CC=C2)=O)(C1)C=1C=C(C=CC1)C1=CC(=CC=C1)OC | C28H28N2O3S
